US08541457B2
Synthesis of N-[5-(4-Chlorobenzylcarbamoyl)-4-methylthiazol-2-yl]isonicotinamide
Following the procedure as described in Example 2, making variations only as required to use isonicotinoyl chloride hydrochloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid 4-chlorobenzylamide, the title compound was obtained as a white solid in 99% yield; 1H NMR (DMSO-d6, 300 MHz) δ 8.75-8.73 (m, 2H), 7.95-7.93 (m, 2H), 7.34 (s, 2H), 7.31 (s; 2H), 4.86 (s, 2H), 2.54 (s, 3H); MS (ES+) m/z 387.0 (M+1).

reactant | isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | 2-amino-4-methylthiazole-5-carboxylic acid 4-chlorobenzylamide | ClC1=CC=C(CNC(=O)C2=C(N=C(S2)N)C)C=C1 | C12H12ClN3OS
product | N-[5-(4-Chlorobenzylcarbamoyl)-4-methylthiazol-2-yl]isonicotinamide | 99% yield | ClC1=CC=C(CNC(=O)C2=C(N=C(S2)NC(C2=CC=NC=C2)=O)C)C=C1 | C18H15ClN4O2S
